US04666504
4-Carboxy-1-(4-fluorophenyl)-5-pyrazolecarboxamide.
A 2.5 g. portion of ethyl 5-cyano-1-(4-fluorophenyl)-4-pyrazolecarboxylate was combined with 2.6 g. of potassium hydroxide and stirred under reflux in 100 ml. of denatured ethanol for 4 hours. It was then cooled, made acid, diluted with water, and concentrated under vacuum to obtain 2.8 g. of the desired compound, m.p. 232° dec. after recrystallization from acetone. It was identified by elemental analysis.

reactant | ethyl 5-cyano-1-(4-fluorophenyl)-4-pyrazolecarboxylate | C(#N)C1=C(C=NN1C1=CC=C(C=C1)F)C(=O)OCC | C13H10FN3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-Carboxy-1-(4-fluorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC=C(C=C1)F | C11H8FN3O3
